US07744658B2
1-({1-[2-(Diethylamino)-2-oxoethyl]-1H-indol-3-yl}methylene)-2,3-dihydro-1H-indolizinium chloride [3]
0.800 g of N,N-diethyl-2-(3-formyl-1H-indol-1-yl)acetamide was solubilized in 4.2 ml of isopropanol. 0.238 g of piperidine was added, followed by 0.435 g of 2,3-dihydro-1H-indolizinium chloride dissolved in 7 ml of isopropanol. The reaction mixtures were brought to 80° C. for 24 h, with stirring. 50 ml of ethyl acetate were added in order to precipitate the dye. The precipitate was filtered off, and washed with 3 times with 25 ml of ethyl acetate before being dried under vacuum until a constant weight was obtained. 1.09 g of orange powder were recovered. The analyses were in conformity with the expected structure.

reactant | N,N-diethyl-2-(3-formyl-1H-indol-1-yl)acetamide | 0.800 g | C(C)N(C(CN1C=C(C2=CC=CC=C12)C=O)=O)CC | C15H18N2O2
reactant | piperidine | 0.238 g | N1CCCCC1 | C5H11N
reactant | 2,3-dihydro-1H-indolizinium chloride | 0.435 g | [Cl-].C1CC[N+]2=CC=CC=C12
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | isopropanol | 4.2 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 7 ml | C(C)(C)O | C3H8O
product | 1-({1-[2-(Diethylamino)-2-oxoethyl]-1H-indol-3-yl}methylene)-2,3-dihydro-1H-indolizinium chloride | [Cl-].C(C)N(C(CN1C=C(C2=CC=CC=C12)C=C1CC[N+]2=CC=CC=C12)=O)CC | InChI=1S/C23H26N3O.ClH/c1-3-24(4-2)23(27)17-26-16-19(20-9-5-6-11-22(20)26)15-18-12-14-25-13-8-7-10-21(18)25;/h5-11,13,15-16H,3-4,12,14,17H2,1-2H3;1H/q+1;/p-1
